US04410529
6.0 g (29.5 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone, 3.4 g (32.5 millimoles) of cyclopropanecarboxylic acid chloride and 100 ml of absolute toluene are kept for 6 hours at 80° C. The product is filtered off at 10° C., washed first with toluene and then with water, and recrystallized from dimethylformamide/water. 6.8 g (85% of theory) of 6-(p-cyclopropylcarbonylaminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone are obtained as beige crystals, of melting point 267°-268° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 29.5 millimoles, 6.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | cyclopropanecarboxylic acid chloride | 32.5 millimoles, 3.4 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(p-cyclopropylcarbonylaminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 6.8 g, 85% | C1(CC1)C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C15H17N3O2
